* C:\Users\Johnb\OneDrive\Documents\GitHub\AMP_PCBv1\LTSpice Diff Simulator\DiffSimulator.asc
V1 P001 0 0.55
V2 P002 0 2.75
R1 N001 P001 1000
R2 N004 P002 1000
R3 N002 N001 5500
R4 N004 0 5500
V3 N005 0 -13
V4 N003 0 13
XU2 N004 N001 N003 N005 N002 OP77
.op
.lib ADI.lib
.backanno
.end
